data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-C_1-c2ccc(C(C)(C)C)cc2_2-Br_3-Oc2ccccc2_4-F_5-Cc2ccccc2_6-[N+](=O)[O-]_7-C(C)(C)C_8-C(C)(C)C_9-OC(C)(C)C","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(Br)c(Oc2ccccc2)c(F)c(Cc2ccccc2)c1O","c1([N+](=O)[O-])c(C(C)(C)C)c(C(C)(C)C)c(OC(C)(C)C)c(C)c1I"],"products_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(Br)c(Oc2ccccc2)c(F)c(Cc2ccccc2)c1Oc2c([N+](=O)[O-])c(C(C)(C)C)c(C(C)(C)C)c(OC(C)(C)C)c2(C)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(Br)c(Oc2ccccc2)c(F)c(Cc2ccccc2)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1([N+](=O)[O-])c(C(C)(C)C)c(C(C)(C)C)c(OC(C)(C)C)c(C)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2([N+](=O)[O-])c(C(C)(C)C)c(C(C)(C)C)c(OC(C)(C)C)c(C)c2[Cu](I)Oc1c(c2ccc(C(C)(C)C)cc2)c(Br)c(Oc2ccccc2)c(F)c1(Cc2ccccc2)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(Br)c(Oc2ccccc2)c(F)c(Cc2ccccc2)c1Oc2c([N+](=O)[O-])c(C(C)(C)C)c(C(C)(C)C)c(OC(C)(C)C)c2(C)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
